US07786129B2
7-chloro-3-{4-[4-(4-chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 from 7-chloro-3-(4-chlorobutyl)-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one and 1-(4-chlorophenyl)-piperazine.

reactant | 7-chloro-3-(4-chlorobutyl)-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one | ClC=1C=C(C=C2C(C(NC12)=O)(CC)CCCCCl)F | C14H16Cl2FNO
reactant | 1-(4-chlorophenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 7-chloro-3-{4-[4-(4-chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C(C=C2C(C(NC12)=O)(CC)CCCCN1CCN(CC1)C1=CC=C(C=C1)Cl)F | InChI=1S/C24H28Cl2FN3O.ClH/c1-2-24(20-15-18(27)16-21(26)22(20)28-23(24)31)9-3-4-10-29-11-13-30(14-12-29)19-7-5-17(25)6-8-19;/h5-8,15-16H,2-4,9-14H2,1H3,(H,28,31);1H
